US05760259
7(p-Propoxyphenyl)heptanoic acid
This compound was synthesized from 7-(p-propoxyphenyl)-6-heptenoic acid (1.31 g, 5 mmol) by hydrogenation reaction using Pd/C (130 mg). Crystallization (petroleum ether) afforded the product (1.23 g, 93%) as white crystals (mp: 49°-50° C.). IR: 3450-2550, 1725 cm-1 ; 1H-NMR: 1.00 (t, 3H), 1.37 (m, 4H), 1.60 (m, 4H), 1.79 (m, 2H), 2.36 (t, 2H), 2.53 (t, 2H), 3.87 (t, 2H), 6.95 (q, 4H), 9.80 (bs, 1H). Anal. Calcd. for C16H24O3 : C, 72.69, H, 9.15%; Found: C, 72.79, H, 9.16%.

reactant | 7-(p-propoxyphenyl)-6-heptenoic acid | 5 mmol, 1.31 g | C(CC)OC1=CC=C(C=C1)C=CCCCCC(=O)O | C16H22O3
catalyst | Pd/C | 130 mg | [Pd] | Pd
product | 7(p-Propoxyphenyl)heptanoic acid | 1.23 g, 93% | C(CC)OC1=CC=C(C=C1)CCCCCCC(=O)O | C16H24O3
